US04051153
(S)-(+)-tert. Butyl 3-tert. butoxy-2-methylpropionate
A solution of 8.7 g. of S-(+)- β-hydroxyisobutyric acid in 140 ml. of CH2Cl2 was stirred and cooled to -72° C. (dry ice-acetone bath) whereupon 70 ml. of liquid isobutylene was added rapidly. To the resulting mixture was added with stirring at -72° C., a solution of 1.6 ml. of phosphoric acid (prepared by dissolving 5 g. of phosphorus pentoxide in 11 ml. of 85% by weight phosphoric acid) in 10 ml. of CH2Cl2, dropwise followed by 3.5 ml. of boron trifluoride etherate also dropwise. The resulting mixture was stirred at -72° C. for 2 hours and at 0°-5° C. (ice bath) for 20 hours then treated with 300 g. of ice-water followed by a solution of 19 g. of NaHCO3 in 200 ml. of water. The CH2Cl2 layer was removed and the aqueous layer was extracted twice with CH2Cl2. The combined organic extracts were washed twice with brine then dried (MgSO4), filtered and concentrated in vacuo giving 23.3 g. of crude product as a yellow oil. This material was chromatographed on 200 g. of silica gel. Elution with 19:1 parts by volume and 9:1 parts by volume hexane-ether gave the desired product which was distilled yielding 12.7 g. (79%) of the ether ester (S)-(+)-tert. butyl 3-tert. butoxy-2-methylpropionate as a colorless liquid, b.p. 99° C. (22 mm Hg.); [ α ]25D + 19.52° (c 4.25, CH3OH).

reactant | β-hydroxyisobutyric acid | OCC(C(=O)O)C | C4H8O3
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | isobutylene | CC(C)=C | C4H8
reactant | phosphoric acid | 11 ml, 5 g | P(O)(O)(O)=O | H3O4P
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (S)-(+)-tert. Butyl 3-tert. butoxy-2-methylpropionate | C(C)(C)(C)OC[C@@H](C(=O)OC(C)(C)C)C | C12H24O3
